US04186135
750 ml of methanol were introduced into a balloon flask provided with a condenser. Then, under cooling, 273 g of concentrated sulfuric acid and 160 g of 7-methylsulfamoyl-1,4-benzodioxane-5-carboxylic acid were added. The mixture was heated under reflux, cooled and poured into water and sodium carbonate. The precipitate was dried off, washed and dried. 143 g of methyl-7-methylsulfamoyl-1,4-benzodioxane-5-carboxylate were obtained (M.P.: 159°-160° C.; yield: 85%).

reactant | methanol | 750 ml | CO | CH4O
reactant | sulfuric acid | 273 g | S(O)(O)(=O)=O | H2O4S
reactant | 7-methylsulfamoyl-1,4-benzodioxane-5-carboxylic acid | 160 g | CNS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O | C10H11NO6S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | methyl-7-methylsulfamoyl-1,4-benzodioxane-5-carboxylate | 143 g, yield: 85% | COC(=O)C1=CC(=CC=2OCCOC21)S(NC)(=O)=O | C11H13NO6S
